US09428456B2
1-(3-Amino-2-methoxy-benzyl)-piperidine-4-carboxylic acid tert-butylamide BB-19
The title compound is prepared according to the reactions described for BB-5 above starting from 2-methoxy-3-nitro-benzaldehyde and piperidine-4-carboxylic acid tert-butylamide yielding after reductive amination 1-(2-methoxy-3-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide; LC-MS A: tR=0.61 min; [M+H]+=350.22 followed by reduction with stannous chloride the title compound; LC-MS A: tR=0.52 min; [M+H]+=320.27.

reactant | 2-methoxy-3-nitro-benzaldehyde | COC1=C(C=O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCNCC1 | C10H20N2O
reactant | 1-(2-methoxy-3-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=C(C(=CC=C1)[N+](=O)[O-])OC | C18H27N3O4
product | 1-(3-Amino-2-methoxy-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=C(C(=CC=C1)N)OC | C18H29N3O2
